US06596772B1
A mixture of 4-[3-(4-aminophenoxy)propoxy]aniline (0.5 g, 1.94 mmol), triflic anhydride (0.72 mL) and sodium bicarbonate (0.65 g, 7.76 mmol) in DCM was stirred at rt overnight to give 1,3-bis(4-trifluoromethylsulfonamidophenoxy)propane. 1HNMR (360 MHz, DMSO-d6) δ 11.53 (s, br, 2H, 2×NH), 7.16 (m, 4H), 6.97 (m, 4H), 4.11 (t, J=6.3 Hz, 4H, CH2CH2CH2), 2.14 (m, 2H, CH2CH2CH2). MS-EI m/z 522 [M+].

reactant | 4-[3-(4-aminophenoxy)propoxy]aniline | 1.94 mmol, 0.5 g | NC1=CC=C(OCCCOC2=CC=C(N)C=C2)C=C1 | C15H18N2O2
reactant | triflic anhydride | 0.72 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 7.76 mmol, 0.65 g | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,3-bis(4-trifluoromethylsulfonamidophenoxy)propane | FC(S(=O)(=O)NC1=CC=C(OCCCOC2=CC=C(C=C2)NS(=O)(=O)C(F)(F)F)C=C1)(F)F | C17H16F6N2O6S2
